US05277895
(b) 10-[2-Hydroxy-3-(4-(5-hydroxypentyl)-phenoxy)-propyl]-1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane
12.3 g (51.97 mmol) of 2,3-epoxy-1-[4-(5-hydroxypentyl)-phenoxy]-propane and 10 g (28.87 mmol) of 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane (=DO3A) are dissolved in a mixture of 50 ml of dioxane and 80 ml of water, and the pH is brought to pH 10 with 6N potassium hydroxide solution. It is stirred for 24 hours at 40° C. It is evaporated to dryness, the residue is taken up with 200 ml of water/50 ml of methanol and extracted twice with 100 ml of tert-butyl methyl ether. The aqueous solution is adjusted to pH 3 with 5N hydrochloric acid and evaporated to dryness. The residue is concentrated by evaporation in a vacuum and boiled out (extracted) with 200 ml of methanol/50 ml of methylene chloride. It is cooled in an ice bath and filtered off from precipitated potassium chloride. The filtrate is concentrated by evaporation in a vacuum, the residue is dissolved in 50 ml of water/20 ml of ethanol and then added to a column of poly-(4-vinylpyridine). The product is eluted with a solution of ethanol/water. After concentration by evaporation in a vacuum, 8.92 g (53% of theory) of the title compound is obtained as strongly hygroscopic, vitreous solid.

reactant | 2,3-epoxy-1-[4-(5-hydroxypentyl)-phenoxy]-propane | 51.97 mmol, 12.3 g | O1C(COC2=CC=C(C=C2)CCCCCO)C1 | C14H20O3
reactant | 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 28.87 mmol, 10 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | potassium hydroxide | 6N | [OH-].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 80 ml | O | H2O
product | 10-[2-Hydroxy-3-(4-(5-hydroxypentyl)-phenoxy)-propyl]-1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane | OC(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)COC1=CC=C(C=C1)CCCCCO | C28H46N4O9
